US08486962B2
A solution of (5-nitro-pyridin-2-yl)-dipropylamine (630 mg, 2.82 mmol) in methanol (10 ml) was hydrogenated over 10% Pd—C (130 mg) at room temperature and atmospheric pressure until no further gas absorption occurred. The reaction mixture was filtered over celite and the filtrate was concentrated to an oil. Purification by column chromatography over silica gel using 0-20% ethyl acetate in pet ether yielded N2,N2-dipropyl-pyridine-2,5-diamine (336 mg, 46.5%) as oil.

reactant | (5-nitro-pyridin-2-yl)-dipropylamine | 2.82 mmol, 630 mg | [N+](=O)([O-])C=1C=CC(=NC1)N(CCC)CCC | C11H17N3O2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd—C | 130 mg | [Pd] | Pd
product | N2,N2-dipropyl-pyridine-2,5-diamine | 336 mg, 46.5% | C(CC)N(C1=NC=C(C=C1)N)CCC | C11H19N3
